US05006157
Preparation of 1-(α,α-dimethylbenzyl)-3-phenyl-2,4-piperidinedione
12.8 g of sodium metal was added to 500 ml of ethanol to prepare sodium ethylate, and 65.7 g (0.186 mol) of ethyl 3-(N-phenylacetyl-α,α-dimethylbenzylamino)propionate prepared by the method of Reference Example 17 was added thereto. The mixture was refluxed under heating for one hour. The reaction solution was cooled to room temperature, and then ethanol was distilled off under reduced pressure. The residue was poured into ice water and acidified with a 10% hydrochloric acid aqueous solution. Precipitated crystals were collected by filtration. The crude product thereby obtained was recrystallized from ethanol to obtain 29.5 g (yield: 51.6%) of the desired compound.

reactant | sodium | 12.8 g | [Na] | Na
reactant | sodium ethylate | CC[O-].[Na+]
reactant | ethyl 3-(N-phenylacetyl-α,α-dimethylbenzylamino)propionate | 0.186 mol, 65.7 g | C1(=CC=CC=C1)CC(=O)N(CCC(=O)OCC)C(C1=CC=CC=C1)(C)C | C22H27NO3
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-(α,α-dimethylbenzyl)-3-phenyl-2,4-piperidinedione | 29.5 g, yield: 51.6% | CC(C1=CC=CC=C1)(C)N1C(C(C(CC1)=O)C1=CC=CC=C1)=O | C20H21NO2
